US07169817B2
Step B: 4-[2-(4-Bromophenyl)ethyl]-4-(t-butyldimethylsilanyloxymethyl)-2-methyl-4,5-dihydrooxazole
4-[2-(4-Bromophenyl)vinyl]-4-(t-butyldimethylsilanyloxymethyl)-2-methyl-4,5-dihydrooxazole (3 mmol) is dissolved in ethanol (15 mL) and hydrogenated at atmospheric pressure in the presence of chlorotris(triphenylphosphine)rhodium(I) (10%). The mixture is stirred at 40° C. for 12 h. After filtration and concentration, the crude product is obtained as colorless oil, which is used directly in the next step without further purification. MS: (ES+): 412.1 (M+1)+.

reactant | 4-[2-(4-Bromophenyl)vinyl]-4-(t-butyldimethylsilanyloxymethyl)-2-methyl-4,5-dihydrooxazole | 3 mmol | BrC1=CC=C(C=C1)C=CC1(N=C(OC1)C)CO[Si](C)(C)C(C)(C)C | C19H28BrNO2Si
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | chlorotris(triphenylphosphine)rhodium(I) | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | 4-[2-(4-Bromophenyl)ethyl]-4-(t-butyldimethylsilanyloxymethyl)-2-methyl-4,5-dihydrooxazole | BrC1=CC=C(C=C1)CCC1(N=C(OC1)C)CO[Si](C)(C)C(C)(C)C | C19H30BrNO2Si
